US06875822B2
The reaction was proceeded by the method described in Example 1. 21.6G of PCl5 was reacted with 20.8 g of 4-chlorobenzophenone to give 24.6 g(purity 98%, yield 89%) of 4-chlorobenzophenone dichloride as a colorless liquid.

reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-chlorobenzophenone | 20.8 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
product | 4-chlorobenzophenone dichloride | 24.6 g, yield 89% | [Cl-].[Cl-].ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | InChI=1S/C13H9ClO.2ClH/c14-12-8-6-11(7-9-12)13(15)10-4-2-1-3-5-10;;/h1-9H;2*1H/p-2
